US07411072B2
5-(2-Trifluoromethyl-benzyl)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Add 5-(2-trifluoromethyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (0.16 g, 0.45 mmol) to a mixture of 10% Pd/C (0.075 g) suspended in absolute ethanol (4.0 mL) and ethyl acetate (2.0 mL) and hydrogenate under a balloon of hydrogen at room temperature and pressure. Stir for 17 h, remove the catalyst via filtration through a pad of Celite. Evaporate the filtrate and pass through a plug of silica gel equilibrated with hexanes. Concentrated the filtrate to give the title product. MS (m/e): 352 (M+). Analysis for C23H19F3: Calcd: C, 78.39 H, 5.43. Found: C, 78.84 H, 5.11.

reactant | 5-(2-trifluoromethyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.45 mmol, 0.16 g | FC(C1=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC=C1)(F)F | C23H17F3
reactant | ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.075 g | [Pd] | Pd
product | 5-(2-Trifluoromethyl-benzyl)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | FC(C1=C(CC2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC=C1)(F)F | C23H19F3
